US20010020030A1
styrene α-boronic acid
A solution of α-bromo styrene (5.5 g, 30 mmol) in diethyl ether (30 mL) at −78° C. was treated with a solution of tert-BuLi (1.7 M solution, 21.2 mL, 36 mmol), stirred at −78° C. for 0.5 hours, treated with triisopropyl borate (8.31 mL, 36 mmol) over 48 minutes, stirred for 1 hour, warmed to room temperature over 18 hours, diluted with diethyl ether (100 mL), treated with 1M HCl (100 mL), stirred at room temperature for 5 hours, concentrated to remove the THF, adjusted pH 14 with IN NaOH, washed with hexane, adjusted to pH 1 with 1M HCl, and extracted with ethyl acetate. The extract was dried (Na2SO4), filtered and concentrated to provide the title compound.

reactant | α-bromo styrene | 30 mmol, 5.5 g | BrC(=C)C1=CC=CC=C1 | C8H7Br
reactant | tert-BuLi | 36 mmol, 1.7 M, 21.2 mL | [Li]C(C)(C)C
reactant | triisopropyl borate | 36 mmol, 8.31 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | styrene α-boronic acid | C=C(C1=CC=CC=C1)B(O)O | C8H9BO2
